US07534797B2
8-Chloro-3-cyclobutyl-1-iodoimidazo[1,5-a]pyrazine
8-Chloro-3-cyclobutylimidazo[1,5-a]pyrazine (1058 mg, 5.1 mmol) and NIS (1146 mg, 5.1 mmol) in anh DMF (10 mL) were stirred at 60° C. under Ar for 6 h. The reaction was diluted with DCM (˜400 mL), washed (H2O, brine), dried (Na2SO4) and concentrated under reduced pressure. Purification of the crude material by flash chromatography on silica gel (50 g cartridge, 10:1-8:1-7:1-6:1 hexanes:EtOAc) afforded the title compound as a pale yellow solid; 1H NMR (400 MHz, CDCl3) δ 7.51 (d, J=4.8 Hz, 1H), 7.26 (d, J=4.8 Hz, 1H), 3.75 (quintetd, J=1.2 Hz, 8.4 Hz, 1H), 2.62-2.42 (m, 4H), 2.32-1.98 (m, 2H); MS (ES+): m/z 334.0 (100) [MH+]; HPLC: tR=3.38 min (OpenLynx, polar—5 min).

reactant | 8-Chloro-3-cyclobutylimidazo[1,5-a]pyrazine | 5.1 mmol, 1058 mg | ClC=1C=2N(C=CN1)C(=NC2)C2CCC2 | C10H10ClN3
reactant | NIS | 5.1 mmol, 1146 mg | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DCM | ˜400 mL | C(Cl)Cl | CH2Cl2
product | 8-Chloro-3-cyclobutyl-1-iodoimidazo[1,5-a]pyrazine | ClC=1C=2N(C=CN1)C(=NC2I)C2CCC2 | C10H9ClIN3
